US04925838
To a solution of (2S,4S)-4-acetylthio-2-hydroxymethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine (15 g) in a mixture of methanol (150 ml) and tetrahydrofuran (150 ml) was added a 28% solution of sodium methoxide in methanol (8.95 ml) under ice-cooling and the mixture was stirred at the same temperature for 10 minutes. To the mixture was added triphenylmethyl chloride (12.39 g) on ice bath, followed by stirring at the same temperature for 1 hour. The precipitates were filtered off and the filtrate was evaporated in vacuo to give a residue. The residue was dissolved in ethyl acetate (200 ml), washed with water, dried over magnesium sulfate, and concentrated under reduced pressure to give a syrup. The syrup was chromatographed on silica gel (200 g) eluting with a mixture of dichloromethane and acetone (9:1 V/V). The fractions containing the desired compound were collected and evaporated in vacuo to give (2S,4S)-2-hydroxymethyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine (22.24 g).

reactant | (2S,4S)-4-acetylthio-2-hydroxymethyl-1-(4-nitrobenzyloxycarbonyl)pyrrolidine | 15 g | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])CO | C15H18N2O6S
reactant | sodium methoxide | C[O-].[Na+]
reactant | triphenylmethyl chloride | 12.39 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | methanol | 150 ml | CO | CH4O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | methanol | 8.95 ml | CO | CH4O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | (2S,4S)-2-hydroxymethyl-1-(4-nitrobenzyloxycarbonyl)-4-(triphenylmethylthio)pyrrolidine | 22.24 g | OC[C@H]1N(C[C@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C32H30N2O5S
